*$
* OPAx134
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx134
* Date: 01JUL2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS058A -DECEMBER 1997-REVISED OCTOBER 2015
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.4
*
*****************************************************************************
*
* Updates:
*
* Final 1.4
* 1. Moved R_NOISELESS .model inside OPAx134 subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.3
* 1. Modified the capacitor(C14) value from 1F to 100nF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated Aol to match the GBW as per the datasheet.
* 3. Updated the CLAWn and CLAWp curve to match the datasheet.
* 4. Updated ISCp and ISCn Short Circuit Currents.
* 5. Updated the model name from OPA134 to OPAx134.
*
* Final 1.2
* Added Vos drift , updated claw , simplified FEMT subcircuit.
*
* Final 1.1
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. OPAx134 model is available in single core(OPA134), dual core(OPA2134)
*    and quad core(OPA4134). 
*****************************************************************************
.SUBCKT OPAx134 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N4201330 N4200188  3.1831P   
C_C10         N4201210 N4201214  1.0801U   
C_C13         0 N4201026  1F   
C_C14         0 N4201004  100N   
C_C15         0 N4201042  1F   
C_C16         N4200376 MID  1F   
C_C17         N4200400 MID  1F   
C_C18         N4200446 MID  1F   
C_C19         N4200466 MID  1F   
C_C2          N4201370 N4201374  1.5915P   
C_C20         N4200542 MID  1F   
C_C21         N4200560 MID  1F   
C_C22         MID N4200604  1F   
C_C23         N4200668 MID  1F   
C_C24         N4200664 MID  1F   
C_C25         N4200728 MID  1P   
C_C26         N4200734 MID  1P   
C_C27         SW_OL_OPAx134 MID  100P   
C_C29         VIMON MID  1P   
C_C30         VOUT_S MID  1P   
C_C4          N4200292 MID  1F   
C_C5          CLAMP MID  38.15N   
C_C70         VCLP MID  1P   
C_C72         MID N4201574  7.9F   
C_C74         N4201424 N4201430  198.94F   
C_C77         N4201448 N4201452  31.831P   
C_C78         N4201456 N4200216  159.15F   
C_C89         N4201532 N4201536  2.341P   
C_C90         MID N4201138  7.9F   
C_C95         N42414241 MID  1.2202P   
C_C96         N4201680 N4200214  15.915F   
C_C_COM0      ESDP MID  5P   
C_C_COM1      MID ESDN  5P   
C_C_DIFF      ESDN ESDP  2P   
E_E1          MID 0 N4201004 0 1
E_E3          N4200794 MID OUT MID 1
E_E4          N4201202 MID CL_CLAMP MID 1
G_G1          N4201330 MID ESDP MID -185.04M
G_G12         CLAW_CLAMP MID N4201138 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G16         N4201412 MID N4201214 MID -4.0229
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N4200198 N4200190 N4200188 MID -1M
G_G20         VCC_CLP MID N4200668 MID -1M
G_G21         VEE_CLP MID N4200664 MID -1M
G_G22         N4200928 MID N4200924 MID -1
G_G23         N4200952 MID N4200960 MID -1
G_G3          N4201370 MID VEE_B MID -76.075M
G_G39         N4201210 MID CL_CLAMP N4200864 -89.0524
G_G4          N4201448 MID VCC_B MID -681.68M
G_G41         N4201574 MID N4201536 MID -1U
G_G48         N4201456 MID N4201452 MID -1.4
G_G5          N4200222 N4200218 N4200216 N4200214 -1M
G_G59         N4201532 MID VSENSE MID -1.324
G_G6          VSENSE MID CLAMP MID -1M
G_G60         N4201138 MID N4201574 MID -1U
G_G65         N4201424 MID N4201644 MID -1
G_G66         N4201680 MID N4201374 MID -1.3
I_I_B         N4200208 MID DC 5P  
I_I_OS        ESDN MID DC 3P  
I_I_Q         VCC VEE DC 4M  
R_R10         MID N4201370 R_NOISELESS 1
R_R11         MID N4201374 R_NOISELESS 4.00016K
R_R15         N4200218 N4200198 R_NOISELESS 1M
R_R16         N4200222 N4200218 R_NOISELESS 1K
R_R167        N4201202 VCLP R_NOISELESS 100
R_R17         N4200254 ESDN R_NOISELESS 1M
R_R171        MID N4201574 R_NOISELESS 1MEG
R_R176        MID N4201424 R_NOISELESS 1
R_R178        N4201430 N4201424 R_NOISELESS 10K
R_R179        MID N4201430 R_NOISELESS 380.01M
R_R18         MID N4200258 R_NOISELESS 1T
R_R187        N4201452 N4201448 R_NOISELESS 100MEG
R_R188        N4200216 N4201456 R_NOISELESS 100MEG
R_R189        MID N4201448 R_NOISELESS 1
R_R19         MID N4200270 R_NOISELESS 1T
R_R190        MID N4201452 R_NOISELESS 833.3403
R_R191        MID N4201456 R_NOISELESS 1
R_R192        MID N4200216 R_NOISELESS 250MEG
R_R20         N4200278 MID R_NOISELESS 1
R_R21         N4200292 N4200278 R_NOISELESS 1M
R_R22         MID N4200302 R_NOISELESS 1MEG
R_R223        N4201536 N4201532 R_NOISELESS 10K
R_R224        MID N4201532 R_NOISELESS 1
R_R225        MID N4201536 R_NOISELESS 30.91K
R_R226        MID N4201138 R_NOISELESS 1MEG
R_R23         MID CLAMP R_NOISELESS 1MEG
R_R239        N4201644 N4201412 R_NOISELESS 10.805183K
R_R24         MID VSENSE R_NOISELESS 1K
R_R240        N42414241 N4201644 R_NOISELESS 10K
R_R241        MID N4201412 R_NOISELESS 1
R_R242        N4200214 N4201680 R_NOISELESS 100MEG
R_R243        MID N4201680 R_NOISELESS 1
R_R244        MID N4200214 R_NOISELESS 333.333333MEG
R_R32         MID CLAW_CLAMP R_NOISELESS 1K
R_R33         MID CL_CLAMP R_NOISELESS 1K
R_R34         N4201214 N4201210 R_NOISELESS 10K
R_R35         MID N4201210 R_NOISELESS 1
R_R36         MID N4201214 R_NOISELESS 3.308116K
R_R43         MID N4201254 R_NOISELESS 1
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N4201026 R_NOISELESS 1M
R_R48         N4201026 N4201004 R_NOISELESS 1MEG
R_R49         N4201004 0 R_NOISELESS 1T
R_R5          MID N4201330 R_NOISELESS 1
R_R50         N4201004 N4201042 R_NOISELESS 1MEG
R_R51         N4201042 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N4200364 MID R_NOISELESS 1
R_R55         N4200376 N4200364 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N4200398 MID R_NOISELESS 1
R_R58         N4200400 N4200398 R_NOISELESS 1M
R_R59         N4200442 MID R_NOISELESS 1T
R_R6          N4200188 N4201330 R_NOISELESS 100MEG
R_R60         N4200444 MID R_NOISELESS 1
R_R61         N4200446 N4200444 R_NOISELESS 1M
R_R62         N4200466 N4200472 R_NOISELESS 1M
R_R63         N4200484 MID R_NOISELESS 1T
R_R64         N4200472 MID R_NOISELESS 1
R_R65         N4200536 MID R_NOISELESS 1T
R_R66         N4200540 MID R_NOISELESS 1
R_R67         N4200542 N4200540 R_NOISELESS 1M
R_R68         N4200560 N4200566 R_NOISELESS 1M
R_R69         N4200578 MID R_NOISELESS 1T
R_R7          MID N4200188 R_NOISELESS 5.555864K
R_R70         N4200566 MID R_NOISELESS 1
R_R71         N4200604 VSENSE R_NOISELESS 1M
R_R72         VCC_B N4200632 R_NOISELESS 1K
R_R73         N4200632 N4200668 R_NOISELESS 1M
R_R74         N4200636 VEE_B R_NOISELESS 1K
R_R75         N4200636 N4200664 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N4200952 MID R_NOISELESS 1
R_R79         N4200928 MID R_NOISELESS 1
R_R8          N4200198 N4200190 R_NOISELESS 1K
R_R80         V11 N4200728 R_NOISELESS 100
R_R81         V12 N4200734 R_NOISELESS 100
R_R82         N4200740 MID R_NOISELESS 1
R_R83         N4200740 SW_OL_OPAx134 R_NOISELESS 100
R_R9          N4201374 N4201370 R_NOISELESS 100MEG
R_RDUMMY      MID N4200864 R_NOISELESS 2K
R_RS_INN      IN- ESDN R_NOISELESS 10M
R_RS_INP      IN+ ESDP R_NOISELESS 10M
R_RX          N4200864 N4201254 R_NOISELESS 20K
R_RX1         MID N4200782 R_NOISELESS 1T
R_RX2         VIMON N4200782 R_NOISELESS 100
R_RX3         MID N4200794 R_NOISELESS 1T
R_RX4         VOUT_S N4200794 R_NOISELESS 100
R_R_CM1       ESDP MID R_NOISELESS 1T
R_R_CM2       MID ESDN R_NOISELESS 1T
V_VCM_MAX     N4200258 VCC_B -2.5
V_VCM_MIN     N4200270 VEE_B 2.5
V_V_GRN       N4200578 MID -60
V_V_GRP       N4200536 MID 60
V_V_ISCN      N4200484 MID -48.09
V_V_ISCP      N4200442 MID 43.98
V_V_ORN       N4200924 VCLP -10.3
V_V_ORP       N4200960 VCLP 10
X_H1          N4200864 OUT N4200782 MID BLOCK_DC_H1_OPAx134 
X_H2          N4200916 N4200952 V12 MID BLOCK_DC_H2_OPAx134 
X_H3          N4200896 N4200928 V11 MID BLOCK_DC_H3_OPAx134 
X_S1          N4200896 CLAMP N4200896 CLAMP BLOCK_DC_S1_OPAx134 
X_S2          CLAMP N4200916 CLAMP N4200916 BLOCK_DC_S2_OPAx134 
X_U1          ESDP N4200208 VNSE_OPAx134 PARAMS: FLW=1 GLF=0.07302 RNV=76.8
X_U10         VCC_CLP VEE_CLP VOUT_S MID N4200364 N4200398 CLAMP_AMP_LO_OPAx134 PARAMS:
+  G=1
X_U11         N4200442 N4200484 VIMON MID N4200444 N4200472 CLAMP_AMP_LO_OPAx134
+  PARAMS: G=1
X_U12         N4200536 N4200578 N4200604 MID N4200540 N4200566 CLAMP_AMP_HI_OPAx134
+  PARAMS: G=10
X_U16         MID N4200740 N4200728 N4200734 OL_SENSE_OPAx134
X_U18         VIMON MID N4200632 VCC_B CLAWP_OPAx134
X_U19         MID VIMON VEE_B N4200636 CLAWN_OPAx134
X_U21         OUT VCC VEE ESD_OUT_OPAx134
X_U22         N4200446 N4200466 CL_CLAMP MID CL_SRC_OPAx134 PARAMS: GAIN=1 IPOS=0.24E2
+  INEG=-0.24E2
X_U23         N4200542 N4200560 CLAMP MID GR_SRC_OPAx134 PARAMS: GAIN=1 IPOS=1.526E2
+  INEG=-1.526E2
X_U25         SW_OL_OPAx134 MID N4201210 N4201214 SW_OL_OPAx134
X_U26         VIMON MID VCC MID IQ_SRC_OPAx134 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_OPAx134 PARAMS: GAIN=1E-3
X_U30         N4200292 N4200254 MID N4200302 AOL_1_OPAx134 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N4200302 MID MID CLAMP AOL_2_OPAx134 PARAMS: GAIN=0.019972 IPOS=0.8
+  INEG=-0.8
X_U32         N4201430 MID MID N4201254 ZO_SRC_OPAx134 PARAMS: GAIN=26316.2632 IPOS=2E5
+  INEG=-2E5
X_U35         N4200376 N4200400 CLAW_CLAMP MID CLAW_SRC_OPAx134 PARAMS: GAIN=1
+  IPOS=0.12E2 INEG=-0.12E2
X_U36         N4200208 MID FEMT_OPAx134 PARAMS: NVRF=3.03
X_U37         ESDN MID FEMT_OPAx134 PARAMS: NVRF=3.03
X_U4          N4200190 N4200208 VOS_DRIFT_OPAx134 PARAMS: DC=0.00036915 POL=1 DRIFT=2E-6
X_U5          ESDN ESDP VCC VEE ESD_IN_OPAx134
X_U6          N4200222 MID N4200278 MID N4200258 N4200270 VCM_CLAMP_OPAx134 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPAx134
*
.SUBCKT BLOCK_DC_H1_OPAx134 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPAx134
*
.SUBCKT BLOCK_DC_H2_OPAx134 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPAx134
*
.SUBCKT BLOCK_DC_H3_OPAx134 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPAx134
*
.SUBCKT BLOCK_DC_S1_OPAx134 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPAx134
*
.SUBCKT BLOCK_DC_S2_OPAx134 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPAx134
*
.SUBCKT AOL_1_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPAx134
*
.SUBCKT AOL_2_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=0.019972 IPOS=0.8 INEG=-0.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPAx134
*
.SUBCKT CLAMP_AMP_HI_OPAx134 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPAx134
*
.SUBCKT CLAMP_AMP_LO_OPAx134 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPAx134
*
.SUBCKT CLAWN_OPAx134 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,        5.00E-04)
+(6.39419,  8.92E-04)
+(13.5019,  1.45E-03)
+(19.5227,  1.82E-03)
+(33.6116,  2.68E-03)
+(38.5479,  2.95E-03)
+(40.9567,  3.11E-03)
+(45.4112,  3.35E-03)
+(47.2211,  3.61E-03)
+(48.09,    5.06E-03)
.ENDS  CLAWN_OPAx134
*
.SUBCKT CLAWP_OPAx134 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,       1.20E-03)
+(7.76892, 1.33E-03)
+(15.8964, 1.68E-03)
+(25.2191, 2.23E-03)
+(32.0319, 2.71E-03)
+(38.1275, 3.36E-03)
+(41.5936, 3.91E-03)
+(43.0279, 4.33E-03)
+(43.745,  4.62E-03)
+(43.98,   4.94E-03)
.ENDS  CLAWP_OPAx134
*
.SUBCKT CLAW_SRC_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.12E2 INEG=-0.12E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPAx134
*
.SUBCKT CL_SRC_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.24E2 INEG=-0.24E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPAx134
*
.SUBCKT ESD_IN_OPAx134 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPAx134
*
.SUBCKT ESD_OUT_OPAx134 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E9 VON=500E-3 VOFF=100E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPAx134
*
.SUBCKT FEMT_OPAx134 1 2 PARAMS: NVRF=3.03
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPAx134
*
.SUBCKT GR_SRC_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=1.526E2 INEG=-1.526E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPAx134
*
.SUBCKT IQ_SRC_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPAx134
*
.SUBCKT OL_SENSE_OPAx134 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_OPAx134
*
.SUBCKT SW_OL_OPAx134 SW_OL_OPAx134 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPAx134 MID OL_SW
.ENDS  SW_OL_OPAx134
*
.SUBCKT VCM_CLAMP_OPAx134 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPAx134
*
.SUBCKT VNSE_OPAx134 1 2 PARAMS: FLW=1 GLF=0.07302 RNV=76.8
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPAx134
*
.SUBCKT VOS_DRIFT_OPAx134 VOS+ VOS- PARAMS: DC=0.00036915 POL=1 DRIFT=2E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPAx134
*
.SUBCKT ZO_SRC_OPAx134 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=26316.2632 IPOS=2E5 INEG=-2E5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPAx134
*
